US08080552B2
A solution of 8.66 g (29.8 mmol) 3-[4-(4-Nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in a mixture of 173 ml THF and 173 ml methanol was hydrogenated over 3.46 g of 10% palladium on charcoal for 8 h. The catalyst was filtered off and the filtrate evaporated. The obtained oil was treated with a small amount of THF and the precipitate removed by filtration. Evaporation of the filtrate gave an oil that was purified by chromatography on silica (dichloromethane/ethanol 95:5) to give 5.77 g (74%) of 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol as colorless oil.

reactant | 3-[4-(4-Nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 29.8 mmol, 8.66 g | [N+](=O)([O-])C1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H14N4O4
solvent | THF | 173 ml | C1CCOC1 | C4H8O
solvent | methanol | 173 ml | CO | CH4O
catalyst | palladium on charcoal | 3.46 g | [Pd] | Pd
product | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 5.77 g, 74% | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
